US07977327B2
(3S)-3-(tert-Butoxycarbonyl)amino-4-isopropylpyrrolidine(4-position isomer mixture)
A 10% palladium carbon catalyst (300 mg) was added to a solution of (3S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-isopropenylpyrrolidine (300 mg, 832 μmol) in methanol (10 mL), and the resultant mixture was stirred in a hydrogen atmosphere under an ordinary pressure for 2 hours. After filtration, a 10% palladium carbon catalyst (300 mg) was added again to the filtrate, followed by stirring in a hydrogen atmosphere under an ordinary pressure for 1 hour. After filtration, the filtrate was concentrated under reduced pressure, to thereby yield (3S)-3-(tert-butoxycarbonyl)amino-4-isopropylpyrrolidine as a colorless amorphous (172 mg, quantitative amount).

reactant | (3S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-isopropenylpyrrolidine | 832 μmol, 300 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@H](C(C1)C(=C)C)NC(=O)OC(C)(C)C | C20H28N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 300 mg | [C].[Pd]
solvent | methanol | 10 mL | CO | CH4O
product | (3S)-3-(tert-Butoxycarbonyl)amino-4-isopropylpyrrolidine | C(C)(C)(C)OC(=O)N[C@@H]1CNCC1C(C)C | C12H24N2O2
